US07560551B2
A 15 mL RBF under nitrogen was charged with 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propan-1-ol (130 mg, 0.24 mmol) in DMA (1.2 mL, 0.24 mmol). To this was added di-tert-butyl diethylphosphoramidite (0.14 mL, 0.57 mmol) and 1-H-tetrazole (1.1 mL, 0.49 mmol). The reaction mixture was stirred at RT for 2 hrs, then cooled to −5° C. and hydrogen peroxide −30 wt. % in water (0.05 mL, 0.51 mmol) added slowly via syringe. The reaction was warmed up to RT and stirred for 2 hrs. The reaction was cooled back to −5° C. and quenched with saturated aqueous solution of sodium thiosulfate. The product was extracted into EtOAc, and the organic layer was collected, dried over sodium sulfate and concentrated to afford a crude yellow residue. The residue was purified by ISCO silica gel chromatography (2-5% MeOH/DCM), and the purified fractions were further purified by Gilson RPLC in system (15%-85% CH3CN/H2O/0.1% TFA) to afford di-tert-butyl 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl phosphate. MS m/z=734 [M+H]+. Calc'd for C40H44N7O5P: 733.8.

reactant | 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propan-1-ol | 0.24 mmol, 130 mg | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NCCCO)C=C1 | C32H27N7O2
reactant | DMA | 0.24 mmol, 1.2 mL | CC(=O)N(C)C | C4H9NO
reactant | di-tert-butyl diethylphosphoramidite | 0.57 mmol, 0.14 mL | C(C)N(P(OC(C)(C)C)OC(C)(C)C)CC | C12H28NO2P
reactant | 1-H-tetrazole | 0.49 mmol, 1.1 mL | N1N=NN=C1 | CH2N4
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 0.51 mmol, 0.05 mL | O | H2O
product | di-tert-butyl 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl phosphate | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCCNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C40H44N7O5P
